US07858640B2
4-(4-methanesulfonylbenzyl)heptane-3,5-dione
Sodium hydride (60% in oil, 0.17 g) was added portionwise to a stirred solution of heptane-3,5-dione (0.54 mL) in N,N-dimethylformamide (4.0 mL) at 0-10° C. The resulting mixture was stirred at 0-10° C. for 10 minutes and then a solution of 1-bromomethyl-4-methanesulfonylbenzene (1.2 g) in N,N-dimethylformamide (2.0 mL) was added dropwise. The resulting mixture was stirred at room temperature for 18 hours, diluted with water and extracted with ethyl acetate. The combined extracts were washed with water and saturated aqueous sodium chloride solution and dried over magnesium sulfate. The solvent was removed under reduced pressure and purification of the residue by column chromatography on silica gel, eluting with a mixture of ethyl acetate and cyclohexane (1:4 by volume) gave title compound as a white solid, 0.61 g.

reactant | Sodium hydride | 0.17 g | [H-].[Na+]
reactant | heptane-3,5-dione | 0.54 mL | CCC(CC(CC)=O)=O | C7H12O2
reactant | 1-bromomethyl-4-methanesulfonylbenzene | 1.2 g | BrCC1=CC=C(C=C1)S(=O)(=O)C | C8H9BrO2S
solvent | N,N-dimethylformamide | 4.0 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 2.0 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-(4-methanesulfonylbenzyl)heptane-3,5-dione | CS(=O)(=O)C1=CC=C(CC(C(CC)=O)C(CC)=O)C=C1 | C15H20O4S
